US06201154B1
A solution of 4-bromophenylacetylene (0.02 mol) and 2-chlorobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) was subjected to the General Procedure to form Z-4-bromostyryl 2-chlorobenzylsulfide. The title compound was obtained in 84% yield following oxidation. 1HNMR (CDC13) δ 4.57 (2H, s), 6.70 (1H, d, JH,H=11.58), 7.18-7.58 (8H aromatic+1H ethylenic).

reactant | 4-bromophenylacetylene | 0.02 mol | BrC1=CC=C(C=C1)C#C | C8H5Br
reactant | 2-chlorobenzyl mercaptan | 0.02 mol | ClC1=C(CS)C=CC=C1 | C7H7ClS
reactant | sodium | 0.02 g | [Na] | Na
product | Z-4-bromostyryl 2-chlorobenzylsulfide | BrC1=CC=C(\C=C/C(C2=C(C=CC=C2)Cl)SC(C2=C(C=CC=C2)Cl)\C=C/C2=CC=C(C=C2)Br)C=C1 | C30H22Br2Cl2S
